US06110933
To a solution of (3S)-3-[(2S)-5-carboxy-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide (100 mg) in methanol (10 ml) was added 2M solution of trimethylsilyldiazomethane in hexane (2 ml) at room temperature. After being stirred at the same temperature for 2 days, the solvent was removed under reduced pressure and the resulting solid was triturated with ethyl ether to give (3S)-3-[(2S)-5-methoxycarbonyl-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide (68.4 mg).

reactant | (3S)-3-[(2S)-5-carboxy-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide | 100 mg | C(=O)(O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)C=1C=NC2=CC=CC=C2C1 | C32H47N3O6
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 10 ml | CO | CH4O
solvent | hexane | 2 ml | CCCCCC | C6H14
product | (3S)-3-[(2S)-5-methoxycarbonyl-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide | 68.4 mg | COC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)C=1C=NC2=CC=CC=C2C1 | C33H49N3O6
